US04672063
A sodium methylate solution, obtained from 3.9 g sodium and 80 ml methanol is added to a suspension of 26.1 g 5-methyl-1-phenylpyrazolin-3-one in 200 ml methanol. After stirring for 30 minutes, 43.02 g 1-bromo-2-chloroethane are added to the clear solution at ambient temperature. The reaction mixture is heated for 15 hours under reflux. Then the solvent is drawn off under reduced pressure. The residue which remains is dissolved in 250 ml methylene chloride and 100 ml water. The organic phase is separated off, dried over sodium sulphate, filtered, and the solvent is evaporated off under reduced pressure. The residue is dissolved in ethyl ether, and the solution is filtered to remove the remaining initial material. Then the solvent is evaporated and the residue (27 g) is boiled in 100 ml butanol or 8 hours under reflux. Finally, the solvent is evaporated in a vacuum and the residue is purified by column chromatography over silica gel. 20 g 2-(2-chloroethyl)-5-methyl-1-phenylpyrazolin-3-one are obtained as an oil.

reactant | 5-methyl-1-phenylpyrazolin-3-one | 26.1 g | CC1CC(NN1C1=CC=CC=C1)=O | C10H12N2O
reactant | 1-bromo-2-chloroethane | 43.02 g | BrCCCl | C2H4BrCl
solvent | methanol | 200 ml | CO | CH4O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 2-(2-chloroethyl)-5-methyl-1-phenylpyrazolin-3-one | 20 g | ClCCN1N(C(CC1=O)C)C1=CC=CC=C1 | C12H15ClN2O
